US07825128B2
7) N-[2-(2-chloro-5-(2-thienyl)pyrimidine-4-ylamino)ethyl]acetamide
In the reaction of N-[2-(2-chloro-5-iodopyrimidine-4-ylamino)ethyl]-acetamide (870 mg, 2.6 mmol) with thiophen-2-boronic acid (359 mg, 2.8 mmol) according to procedure 3, the desired product is obtained in 79% yield (602 mg) after chromatographic purification (silica gel, ethyl acetate/hexane (0%-90% ethyl acetate)).

reactant | N-[2-(2-chloro-5-iodopyrimidine-4-ylamino)ethyl]-acetamide | 2.6 mmol, 870 mg | ClC1=NC=C(C(=N1)NCCNC(C)=O)I | C8H10ClIN4O
reactant | thiophen-2-boronic acid | 2.8 mmol, 359 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
product | N-[2-(2-chloro-5-(2-thienyl)pyrimidine-4-ylamino)ethyl]acetamide | 79% yield | ClC1=NC=C(C(=N1)NCCNC(C)=O)C=1SC=CC1 | C12H13ClN4OS
